US09238640B2
Preparation of 2-(4-(4-Hexanoylpiperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
To a solution of 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one (0.120 g, 0.32 mmol) in CH2Cl2 (10 mL) was added Et3N (0.06 mL, 0.48 mmol) and hexanoyl chloride (0.03 mL, 0.28 mmol). The resulting solution was stirred at room temperature for 1 hour. The mixture was concentrated in vacuo. The material was purified by flash chromatography, eluting with 2% to 10% of MeOH/CH2Cl2, to afford the title compound (0.050 g, 38%). 1H NMR (300 MHz, DMSO-d6): δ 11.79 (s, 1H), 8.11 (d, J=8.7 Hz, 2H), 7.03 (d, J=8.8 Hz, 2H), 6.68 (s, 1H), 6.47 (s, 1H), 3.75-4.05 (m, 6H), 3.47-3.73 (m, 4H), 3.17-3.43 (m, 4H), 2.20-2.40 (m, 2H), 1.41-1.62 (m, 2H), 1.15-1.38 (m, 4H), 0.76-0.98 (m, 3H); APCI MS m/z 465 [M+H]+.

reactant | 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one | 0.32 mmol, 0.120 g | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCNCC1)=O | C20H22N4O3
reactant | Et3N | 0.48 mmol, 0.06 mL | CCN(CC)CC | C6H15N
reactant | hexanoyl chloride | 0.28 mmol, 0.03 mL | C(CCCCC)(=O)Cl | C6H11ClO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-Hexanoylpiperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.050 g, 38% | C(CCCCC)(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C26H32N4O4
